US07435823B2
Step (a) Preparation of 6,7-dimethoxy-4-phenylsulfanyl-quinoline
To a solution of 4-chloro-6,7-dimethoxy-quinoline (214 mg, 0.96 mmol) in EtOH (10 mL) and H2O (10 mL), was added KOH (107 mg, 1.44 mmol). The solution was stirred in a 100° C. bath. Then thiophenol (148 μL, 1.44 mmol) was added. The reaction was stirred at 100° C. for 1 h. The solvent was removed by rotary evaporation. The resulting residue was worked up with water and extracted with EtOAc 3×. The combined organic layer was washed with water and brine, dried over Na2SO4, filtered, and concentrated in vacuo. The crude material was purified by silica gel prep-TLC with 100% EtOAc to give the titled compound. MS (ESI, pos. ion) m/z: 298.1 (M+1).

reactant | 4-chloro-6,7-dimethoxy-quinoline | 0.96 mmol, 214 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | KOH | 1.44 mmol, 107 mg | [OH-].[K+]
reactant | thiophenol | 1.44 mmol, 148 μL | C1(=CC=CC=C1)S | C6H6S
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | H2O | 10 mL | O | H2O
product | 6,7-dimethoxy-4-phenylsulfanyl-quinoline | COC=1C=C2C(=CC=NC2=CC1OC)SC1=CC=CC=C1 | C17H15NO2S
